US08314250B2
Dimethylamine (11.2 g, 249.3 mmol, 30.0 equiv) was added portionwise to a stirred solution of toluene-4-sulfonic acid(S)-2-tert-butoxycarbonylamino-4,4-dimethyl-pentyl ester (3.2 g, 8.31 mmol, 1.0 equiv.) in pyridine (9.6 mL) at 0° C. The reaction mixture was slowly warmed to room temperature and stirred for an additional 20 hours at the same temperature. The reaction mixture was diluted with the addition of an aqueous solution of 10% potassium hydroxide (w/v; 30 mL) and was extracted with dichloromethane (3×150 mL). The collected organic extracts were dried over anhydrous sodium sulfate, concentrated under reduced pressure to obtain a crude mass. This was purified by purified by silica gel column chromatography (100-200 mesh) using a gradient of 2-5% methanol/dichloromethane to give ((S)-1-dimethylaminomethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester (1.4 g, 65%).

reactant | Dimethylamine | 249.3 mmol, 11.2 g, 30.0 equiv | CNC | C2H7N
reactant | toluene-4-sulfonic acid(S)-2-tert-butoxycarbonylamino-4,4-dimethyl-pentyl ester | 8.31 mmol, 3.2 g, 1.0 equiv. | C(C)(C)(C)OC(=O)N[C@H](COS(=O)(=O)C1=CC=C(C=C1)C)CC(C)(C)C | C19H31NO5S
solvent | pyridine | 9.6 mL | N1=CC=CC=C1 | C5H5N
solvent | potassium hydroxide | 30 mL | [OH-].[K+]
product | ((S)-1-dimethylaminomethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester | 1.4 g, 65% | C(C)(C)(C)OC(N[C@@H](CC(C)(C)C)CN(C)C)=O | C14H30N2O2
